US07648987B2
c) C-(3-Chloro-pyrazin-2-yl)-C-(2-phenyl-quinolin-7-yl)-methylamine (compound of Formula IV where Q1=2-phenylquinolin-7-yl)
A solution of 2-[(3-chloropyrazin-2-yl)-(2-phenylquinolin-7-yl)-methyl]-isoindole-1,3-dione (1.536 g, 3.22 mmol) and anhydrous hydrazine (335 μL, 342 mg, 10.7 mmol) in EtOH (2 mL)/CH2Cl2 (12 mL) is stirred at rt overnight. The white precipitate formed is filtered off and washed with CH2Cl2. The combined filtrate and washings are concentrated in vacuo, the residue is suspended in CDCl3 and filtered (0.45 μM pore size), and the filtrate is concentrated in vacuo to obtain the title compound as yellow foam, which is used for the next step without further purification; 1H NMR (CDCl3, 400 MHz): δ2.4 (brs, 2H), 5.79 (s, 1H), 7.43-7.55 (m, 3H), 7.61 (dd, J=1.8, 8.6 Hz, 1H), 7.81 (d, J=8.4 Hz, 1H), 7.86 (d, J=8.4 Hz, 1H), 8.06 (d, J=1.2 Hz, 1H), 8.10-8.15 (m, 2H), 8.19 (d, J=8.8 Hz, 1H), 8.31 (d, J=2.4 Hz, 1H), 8.60 (d, J=2.4 Hz, 1H); MS (ES+):m/z347.0/349.0(30/10) [MH+], 330.0/332.0 (18/6) [MH+-NH3]; HPLC: tR=2.1 min (MicromassZQ, polar—5 min).

reactant | 2-[(3-chloropyrazin-2-yl)-(2-phenylquinolin-7-yl)-methyl]-isoindole-1,3-dione | 3.22 mmol, 1.536 g | ClC=1C(=NC=CN1)C(N1C(C2=CC=CC=C2C1=O)=O)C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1 | C28H17ClN4O2
reactant | hydrazine | 10.7 mmol, 335 μL, 342 mg | NN | H4N2
reactant | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 2 mL | CCO | C2H6O
product | C-(3-Chloro-pyrazin-2-yl)-C-(2-phenyl-quinolin-7-yl)-methylamine | ClC=1C(=NC=CN1)C(C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1)N | C20H15ClN4
